US03950528
3-Amino-1-(4-nitrobenzyl)-pyrazol-5-one ##SPC15##
17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 16.7 g of 4-nitrobenzylhydrazine, analogously to the procedure described in Example 1 yield 17.3 g of the compound identified above as yellowish crystals of melting point 182°, corresponding to 74% of theory.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 4-nitrobenzylhydrazine | 16.7 g | [N+](=O)([O-])C1=CC=C(CNN)C=C1 | C7H9N3O2
product | 3-Amino-1-(4-nitrobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H10N4O3
